US05411966
3-(2-Bromo-13-chloro-6-methyl-8alpha-ergolinyl)-1,1-diethylurea,
2.1 g of 3-(2-bromo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea (5 mmol) and 388 mg of trichloroisocyanuric acid (1.67 mmol) are dissolved in 100 ml of trifluoroacetic acid at room temperature. After 15 minutes, ice is added, it is made alkaline with conc. ammonia and shaken out with dichloromethane. The organic phases are dried and concentrated by evaporation, the residue is chromatographed and the product crystallizes from ethyl acetate/ether, yield 480 mg (21% of theory).

reactant | 3-(2-bromo-6-methyl-8alpha-ergolinyl)-1,1-diethylurea | 5 mmol, 2.1 g | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(N(CC)CC)=O)C | C20H27BrN4O
reactant | trichloroisocyanuric acid | 1.67 mmol, 388 mg | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | ammonia | N | H3N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-Bromo-13-chloro-6-methyl-8alpha-ergolinyl)-1,1-diethylurea | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=C(C=C(N1)C32)Cl)NC(N(CC)CC)=O)C | C20H26BrClN4O
